US06201154B1
A solution of 4-methylphenylacetylene (0.02 mol) and 2-chlorobenzyl mercaptan (0.02 mol) and metallic sodium (0.02 g atom) was subjected to the General Procedure to form Z-4-methylstyryl 2-chlorobenzylsulfide. The title compound was obtained in 76% yield following oxidation. 1HNMR (CDC13) δ 2.50 (3H, s), 4.58 (2H, s), 6.80 (1H, d, JH,H=11.88), 7.20-7.63 (9H aromatic+1H ethylenic).

reactant | 4-methylphenylacetylene | 0.02 mol | CC1=CC=C(C=C1)C#C | C9H8
reactant | 2-chlorobenzyl mercaptan | 0.02 mol | ClC1=C(CS)C=CC=C1 | C7H7ClS
reactant | sodium | 0.02 g | [Na] | Na
product | Z-4-methylstyryl 2-chlorobenzylsulfide | CC1=CC=C(\C=C/C(C2=C(C=CC=C2)Cl)SC(C2=C(C=CC=C2)Cl)\C=C/C2=CC=C(C=C2)C)C=C1 | C32H28Cl2S
